US09078888B2
Synthesis of 4-bromo-6-methoxy-2-(4-methoxyphenyl)-1-oxo-1,2-dihydroisoquinoline-8-carbonitrile (14j)
Compound 6-methoxy-2-(4-methoxyphenyl)-1-oxo-1,2-dihydroisoquinoline-8-carbonitrile (0.22 g, 0.72 mmol) and N-bromosuccinimide (0.15 g, 0.86 mmol) were placed in a dry, argon flushed 150 mL single-necked flask fitted with a stirring bar and sealed with a rubber stopper. Acetonitrile (10 mL) was added via a syringe at room temperature under argon atmosphere. After the mixture was stirred at room temperature for 4 hours, the solvent was removed under reduced pressure. The residue was purified by flash column chromatography (silica-gel, hexanes/EtOAc=2/3 v/v) to give a white solid product, 0.23 g, 83.3% yield. M.p. ° C. (decomposed). MS: m/z 387.1 [M+H]+. 1H NMR (DMSO-d6, 300 MHz), δ 8.01 (s, 1H), 7.81 (d, 1H, J=2.4 Hz), 7.43 (d, 1H, J=2.4 Hz), 7.42 (d, 2H, J=8.7 Hz), 7.07 (d, 2H, J=8.7 Hz), 4.02 (s, 3H), 3.82 (s, 3H).

reactant | 6-methoxy-2-(4-methoxyphenyl)-1-oxo-1,2-dihydroisoquinoline-8-carbonitrile | 0.72 mmol, 0.22 g | COC=1C=C2C=CN(C(C2=C(C1)C#N)=O)C1=CC=C(C=C1)OC | C18H14N2O3
reactant | N-bromosuccinimide | 0.86 mmol, 0.15 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 4-bromo-6-methoxy-2-(4-methoxyphenyl)-1-oxo-1,2-dihydroisoquinoline-8-carbonitrile | 83.3% yield | BrC1=CN(C(C2=C(C=C(C=C12)OC)C#N)=O)C1=CC=C(C=C1)OC | C18H13BrN2O3
